US08957066B2
1,3-Dichloroacetone (0.252 g, 2 mmol) was added to a solution of (E)-ethyl 3-(2-aminothiazol-5-yl)acrylate (0.199 g, 1 mmol) in EtOH (5 mL). The solution was heated at 80° C. overnight in a closed vial. The reaction mixture was then evaporated and the residue was treated with a saturated NaHCO3 solution (20 mL). It was extracted with EtOAc (30 mL). The organic layer was separated, dried over Na2SO4, filtered and evaporated. The crude was purified by silica gel column chromatography (50-100% gradient of EtOAc in Hexanes) to provide pure (E)-ethyl 3-(6-(ethoxymethyl)imidazo[2,1-b]thiazol-2-yl)acrylate (0.080 g) as a tan solid. ES+(M+H)+281.

reactant | 1,3-Dichloroacetone | 2 mmol, 0.252 g | ClCC(=O)CCl | C3H4Cl2O
reactant | (E)-ethyl 3-(2-aminothiazol-5-yl)acrylate | 1 mmol, 0.199 g | NC=1SC(=CN1)/C=C/C(=O)OCC | C8H10N2O2S
reactant | EtOH | 5 mL | CCO | C2H6O
product | (E)-ethyl 3-(6-(ethoxymethyl)imidazo[2,1-b]thiazol-2-yl)acrylate | 0.080 g | C(C)OCC=1N=C2SC(=CN2C1)/C=C/C(=O)OCC | C13H16N2O3S
